US06395764B1
7-Methyl-6-(2-imidazolinylamino)indole
6-[-N′-(2-Aminoethyl)thioureido]-7-methylindole. A solution of 6-isothiocyanato-7-methylindole (0.85 g, 4.52 mmol) in 25 mL of toluene is added to a solution of ethylenediamine (1.06 mL, 15.8 mmol) in 50 mL of toluene. The milky white mixture is stirred for 30 minutes as the desired product precipitates. The reaction is filtered to yield 1.1 g of 6-[-N′-(2-aminoethyl)thioureido]-7-methylindole as a flaky white solid (99% yield).

reactant | 6-[-N′-(2-Aminoethyl)thioureido]-7-methylindole | NCCNC(NC1=CC=C2C=CNC2=C1C)=S | C12H16N4S
reactant | 6-isothiocyanato-7-methylindole | 4.52 mmol, 0.85 g | N(=C=S)C1=CC=C2C=CNC2=C1C | C10H8N2S
reactant | ethylenediamine | 15.8 mmol, 1.06 mL | C(CN)N | C2H8N2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 7-Methyl-6-(2-imidazolinylamino)indole | CC=1C(=CC=C2C=CNC12)NN1C=NCC1 | C12H14N4
